US07723368B2
Preparation of 2-amino-5-[4-(difluoromethoxy)phenyl]-5-[3-(4-fluorobut-1-yn-1-yl)phenyl]-3-methyl-3,5-dihydro-4H-imidazol-4-one
This material was synthesized in a fashion similar to 2-amino-5-[4-(difluoromethoxy)phenyl]-5-[3-(3-fluoroprop-1-yn-1-yl)phenyl]-3-methyl-3,5-dihydro-4H-imidazol-4-one by coupling 1-(4-(difluoromethoxy)phenyl)-2-(3-(3-hydroxyprop-1-ynyl)phenyl)ethane-1,2-dione with but-3-yn-1-ol in step 1.

reactant | 2-amino-5-[4-(difluoromethoxy)phenyl]-5-[3-(3-fluoroprop-1-yn-1-yl)phenyl]-3-methyl-3,5-dihydro-4H-imidazol-4-one | NC1=NC(C(N1C)=O)(C1=CC(=CC=C1)C#CCF)C1=CC=C(C=C1)OC(F)F | C20H16F3N3O2
reactant | 1-(4-(difluoromethoxy)phenyl)-2-(3-(3-hydroxyprop-1-ynyl)phenyl)ethane-1,2-dione | FC(OC1=CC=C(C=C1)C(C(=O)C1=CC(=CC=C1)C#CCO)=O)F | C18H12F2O4
reactant | but-3-yn-1-ol | C(CC#C)O | C4H6O
product | 2-amino-5-[4-(difluoromethoxy)phenyl]-5-[3-(4-fluorobut-1-yn-1-yl)phenyl]-3-methyl-3,5-dihydro-4H-imidazol-4-one | NC1=NC(C(N1C)=O)(C1=CC(=CC=C1)C#CCCF)C1=CC=C(C=C1)OC(F)F | C21H18F3N3O2
